US08383652B2
40 mg (0.1 mmol) of methyl (Z)-3-(2-butoxy-3′-methylaminobiphenyl-4-yl)-2-ethoxyacrylate and 16 mg (0.11 mmol) phenethyl isocyanate are heated at 85° C. by microwave in an Emrys Optimizer machine for 20 minutes. The residue obtained is purified by chromatography on a column of silica eluted with a 95/5 and then 90/10 heptane/ethyl acetate mixture. 40 mg (72%) of methyl (Z)-3-[2-butoxy-3′-(1-methyl-3-phenethylureido)biphenyl-4-yl]-2-ethoxyacrylate are obtained.

reactant | methyl (Z)-3-(2-butoxy-3′-methylaminobiphenyl-4-yl)-2-ethoxyacrylate | 0.1 mmol, 40 mg | C(CCC)OC1=C(C=CC(=C1)\C=C(\C(=O)OC)/OCC)C1=CC(=CC=C1)NC | C23H29NO4
reactant | phenethyl isocyanate | 0.11 mmol, 16 mg | C(CC1=CC=CC=C1)N=C=O | C9H9NO
product | methyl (Z)-3-[2-butoxy-3′-(1-methyl-3-phenethylureido)biphenyl-4-yl]-2-ethoxyacrylate | 40 mg, 72% | C(CCC)OC1=C(C=CC(=C1)\C=C(\C(=O)OC)/OCC)C1=CC(=CC=C1)N(C(=O)NCCC1=CC=CC=C1)C | C32H38N2O5
